US04165378
A mixture of 2-guanidino-4-[2-(3-cyano-2-methylisothioureido)ethylthiomethyl]thiazole (1.1 g.) in ethanol (25 ml.) was treated with 70% w/v aqueous ethylamine (5 ml.) at room temperature. The mixture was stirred overnight at room temperature and the solution evaporated to dryness. The residue was crystallized from methanol to give 2-guanidino-4-[2-(2-cyano-3-ethylguanidino)ethylthiomethyl]thiazole (0.53 g.), m.p. 181°-182° C.

reactant | 2-guanidino-4-[2-(3-cyano-2-methylisothioureido)ethylthiomethyl]thiazole | 1.1 g | N(C(=N)N)C=1SC=C(N1)CSCCNC(SC)=NC#N | C10H15N7S3
reactant | ethylamine | 5 ml | C(C)N | C2H7N
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 2-guanidino-4-[2-(2-cyano-3-ethylguanidino)ethylthiomethyl]thiazole | 0.53 g | N(C(=N)N)C=1SC=C(N1)CSCCNC(=NC#N)NCC | C11H18N8S2
